US06756372B2
(b) 3-(t-Butyl-amino)-N-methoxy-N-methyl-propanamide
N-Methoxy-N-methyl-acrylamide (5 g, 43.4 mmol, 1.0 equiv) was dissolved in t-butylamine (3.36 g, 46 mmol, 1.06 equiv). The resulting solution was stirred at room temperature for 48 h. The excess primary amine was removed in vacuo and the crude product was purified by flash chromatography on silica using 100% CH2Cl2 to 2% MeOH in CH2Cl2 to give the desired product as a light yellow oil (5.7 g, 70%); MS, m/z 189=M+1.

reactant | N-Methoxy-N-methyl-acrylamide | 43.4 mmol, 5 g, 1.0 equiv | CON(C(C=C)=O)C | C5H9NO2
reactant | t-butylamine | 46 mmol, 3.36 g, 1.06 equiv | C(C)(C)(C)N | C4H11N
product | 3-(t-Butyl-amino)-N-methoxy-N-methyl-propanamide | 5.7 g, 70% | C(C)(C)(C)NCCC(=O)N(C)OC | C9H20N2O2
